US08735417B2
In a sealable tube were successively added diethanolamine (3.46 mL, 35.8 mmol) and 2-bromothiazole (1.538 mL, 17.07 mmol), under nitrogen. The tube was sealed and the mixture was irradiated in the microwave at 130° C. for 30 min. The residue was dissolved in 5:95 ethanol:dichloromethane and chromatographed on silica (CombiFlash, 5-20%, ethanol in dichloromethane) to afford 2,2′-(1,3-thiazol-2-ylimino)diethanol (795 mg, 4.22 mmol, 24.74% yield) as a pale oil.

reactant | diethanolamine | 35.8 mmol, 3.46 mL | N(CCO)CCO | C4H11NO2
reactant | 2-bromothiazole | 17.07 mmol, 1.538 mL | BrC=1SC=CN1 | C3H2BrNS
solvent | ethanol | C(C)O | C2H6O
product | 2,2′-(1,3-thiazol-2-ylimino)diethanol | 4.22 mmol, 795 mg, 24.74% yield | S1C(=NC=C1)N(CCO)CCO | C7H12N2O2S
